US05142081
1,2,3-tris-trimethylsiloxypropane
1 mole of glycerol, 4 moles of trimethylchlorosilane and 0.003 moles of trimethylbenzyl ammonium chloride were reacted at the reflux temperature (54°-102° C.) as in Example 1. Excess silylating agent was distilled off after termination of the reaction. The catalyst was filtered off when the reaction mixture was cold.

reactant | glycerol | 1 mole | OCC(O)CO | C3H8O3
reactant | trimethylchlorosilane | 4 moles | C[Si](Cl)(C)C | C3H9ClSi
catalyst | trimethylbenzyl ammonium chloride | 0.003 moles | [Cl-].C[N+](CC1=CC=CC=C1)(C)C
product | 1,2,3-tris-trimethylsiloxypropane | C[Si](OCC(CO[Si](C)(C)C)O[Si](C)(C)C)(C)C | C12H32O3Si3
